US05446146
4-(3,4,5-Trihydroxybenzyl)-1-piperazinecarbodithioic acid (Com. No. 109)
In a nitrogen atmosphere, 1,033 mg (3.02 mmol.) of 4-(3,4,5-trimethoxybenzyl)-1-piperazinecarbodithioic acid was suspended indry methylene chloride, and under chilling to -78° C. in a dry ice-acetone bath, to this was dropwise added 50 ml of methylene chloride solution containing 3 ml of boron tribromide. The mixture was left to slowly reach room temperature, and then stirred for 5 days at room temperatuere. To the reaction mixture was added water, and insolubles wereremoved by filtration. The insolubles were then washed with water, and thusobtained yellow solid was dissolved in methanol. The methanol solution was filtered to remove insoubles, and the solvent of the filtrate was distilled off. To the obtained yellow semi-oil was added ether, and insolubles were removed by filtration. The filtrate was dried and further purified by cellulose column chromatography (Avicel, trademark, eluent: butanol/acetic acid/water (10/1/1)). The eluate was treated to distill offthe solvent (eluent). To the residue was added ether, and insolubles were removed by filtration. The solvent of the filtrate was distilled off, leaving 103 mg of the desired compound, m.p. higher than 250° C., yield 11.4%.

reactant | 4-(3,4,5-trimethoxybenzyl)-1-piperazinecarbodithioic acid | 3.02 mmol, 1,033 mg | COC=1C=C(CN2CCN(CC2)C(=S)S)C=C(C1OC)OC | C15H22N2O3S2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | boron tribromide | 3 ml | B(Br)(Br)Br | BBr3
solvent | water | O | H2O
product | 4-(3,4,5-Trihydroxybenzyl)-1-piperazinecarbodithioic acid | 103 mg, yield 11.4% | OC=1C=C(CN2CCN(CC2)C(=S)S)C=C(C1O)O | C12H16N2O3S2
